US09303040B2
tert-Butyl 1-(1-(4-chlorophenyl)-3-oxopropan-2-yl)cyclopropylcarbamate (3.06 mmol), 2-methyl-2-butene (7.6 mL, 2.0M THF solution, 15.3 mmol) and KH2PO4 (0.416 g, 3.06 mmol) were dissolved in t-BuOH (100 mL)-water (30 mL). Sodium chlorite (0.830 g, 9.17 mmol) was added portionwise at 0° C. The mixture was stirred at room temperature for 2 hours and then acidified with 10% citric acid. The reaction was extracted with EtOAc. The combined organic layers were washed with brine, dried and concentrated to give 2-(1-(tert-butoxycarbonylamino)cyclopropyl)-3-(4-chlorophenyl)propanoic acid as a white solid. LCMS: 339.9 [M+H+] (APCI+).

reactant | tert-Butyl 1-(1-(4-chlorophenyl)-3-oxopropan-2-yl)cyclopropylcarbamate | 3.06 mmol | ClC1=CC=C(C=C1)CC(C=O)C1(CC1)NC(OC(C)(C)C)=O | C17H22ClNO3
reactant | 2-methyl-2-butene | 15.3 mmol, 2.0M, 7.6 mL | CC(C)=CC | C5H10
reactant | KH2PO4 | 3.06 mmol, 0.416 g | OP(=O)(O)[O-].[K+]
reactant | Sodium chlorite | 9.17 mmol, 0.830 g | Cl(=O)[O-].[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | t-BuOH | 100 mL | CC(C)(C)O | C4H10O
solvent | water | 30 mL | O | H2O
product | 2-(1-(tert-butoxycarbonylamino)cyclopropyl)-3-(4-chlorophenyl)propanoic acid | C(C)(C)(C)OC(=O)NC1(CC1)C(C(=O)O)CC1=CC=C(C=C1)Cl | C17H22ClNO4
